US07745635B1
4-amino-1,2,4-triazole, 10.000 g, 118 mmoles, was dissolved into 200 ml of fresh acetonitrile and stirred vigorously. Allyl bromide, 43.10 g, 356 mmoles, was added slowly to the solution at room temperature. The reaction mixture was protected from light and allowed to stir for five days at ambient temperature, whereupon it was filtered, and transferred to a large round bottomed flask. The solvent and excess allyl bromide were rotary evaporated away leaving a viscous yellow oil. The oil was dissolved in a minimum amount of ethyl alcohol and the resultant clear, yellow solution layered with diethyl ether, and stored at 4° C. for 24 hours, resulting in a large crop of fine needles. The needles were filtered away washed with cold isopropyl alcohol and then cold diethyl ether, transferred to a preweighed Schlenk flask and vacuum dried overnight to leave a fluffy crystalline product of 1-allyl-4-amino-1,2,4-triazolium bromide in decent yield 12.657 g, 62 mmoles. Melting point: 59-62° C.; DSC onset: 130° C.

reactant | 4-amino-1,2,4-triazole | NN1C=NN=C1 | C2H4N4
reactant | acetonitrile | 200 ml | C(C)#N | C2H3N
reactant | Allyl bromide | C(C=C)Br | C3H5Br
reactant | diethyl ether | C(C)OCC | C4H10O
solvent | ethyl alcohol | C(C)O | C2H6O
product | 1-allyl-4-amino-1,2,4-triazolium bromide | [Br-].C(C=C)[N+]=1N=CN(C1)N | InChI=1S/C5H9N4.BrH/c1-2-3-9-5-8(6)4-7-9;/h2,4-5H,1,3,6H2;1H/q+1;/p-1
